US04782159
A solution of 3-(4-fluorobenzoyl)butanoic acid (8 g), 4-hydroxypyridine (8 g) and sodium hydroxide (4.6 g) in water (80 ml) was heated in an autoclave at 140° C. for 20 hours. The reaction mixture was cooled and was acidified to pH 3-4 with dilute hydrochloric acid to afford as a white crystalline precipitate 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid, 9.45 g (87%), m.p. 250°-252° C.

reactant | 3-(4-fluorobenzoyl)butanoic acid | 8 g | FC1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C11H11FO3
reactant | 4-hydroxypyridine | 8 g | OC1=CC=NC=C1 | C5H5NO
reactant | sodium hydroxide | 4.6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 3-[4-(4-oxo-1,4-dihydropyridin-1-yl)benzoyl]butanoic acid | O=C1C=CN(C=C1)C1=CC=C(C(=O)C(CC(=O)O)C)C=C1 | C16H15NO4
